US07608627B2
Reaction of tert-butyl 3-hydroxypiperidine-1-carboxylate with N-hydroxyphthalimide following the procedure described for the preparation of Reference Example 9 gave tert-butyl 3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]piperidine-1-carboxylate (2.3 g, 57%) as a yellow oil: 1H NMR (500 MHz, CDCl3) δ 1.42 (9H, s), 1.47-1.58 (1H, m), 1.74-1.76 (1H, m), 1.90-1.92 (1H, m), 2.08-2.11 (1H, m), 3.04-3.40 (2H, m), 3.66-3.68 (1H, m), 3.70-4.14 (1H, m) 4.24-4.27 (1H, m), 7.74-7.76 (2H, m), 7.82-7.86 (2H, m).

reactant | tert-butyl 3-hydroxypiperidine-1-carboxylate | OC1CN(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
product | tert-butyl 3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]piperidine-1-carboxylate | 2.3 g, 57% | O=C1N(C(C2=CC=CC=C12)=O)OC1CN(CCC1)C(=O)OC(C)(C)C | C18H22N2O5
